US06492416B1
To a stirred solution of 4-bromo-2-ethyl-2-methy-5-{4-(methylsulfonyl)-phenyl}-3(2H)-furanone (200 mg) in 15 ml toluene and 5 ml ethanol, were added 34 mg of tetrakis(triphenylphosphine)palladium(0), 5 ml of 2 M aqueous sodium carbonate solution, and 110 mg of 3,5-difluorobenzeneboronic acid. Then the reaction solution was stirred at 95° C. for 12 hours. The reaction solvent was evaporated off under reduced pressure and the resulting residue was extracted with 50 ml water and dichloromethane (30 ml×3). The organic layer was concentrated in vacuo. The resulting crude product mixture was purified by column chromatography (hexane/ethylacetate=2:1) to obtain 80 mg of 4-(3,5-difluorophenyl)-2-ethyl-2-methyl-5{4-(methylsulfonyl)phenyl}-3(2H)-furanone as a solid. mp: 122-124° C. NMR: δ0.95 (t, J=7.5 Hz, 3H), 1.54 (s, 3H), 1.97 (m, 2H), 3.10 (s, 3H), 6.81 (m, 3H), 7.84 (d, J=8.7 Hz, 2H), 7.99 (d, J=8.4 Hz, 2H). IR (cm−1): 2975, 2928, 1698, 1627, 1321, 1150, 990, 769, 552.

reactant | 4-bromo-2-ethyl-2-methy-5-{4-(methylsulfonyl)-phenyl}-3(2H)-furanone | 200 mg | BrC=1C(C(OC1C1=CC=C(C=C1)S(=O)(=O)C)(C)CC)=O | C14H15BrO4S
reactant | sodium carbonate | 2 M, 5 ml | C([O-])([O-])=O.[Na+].[Na+]
reactant | 3,5-difluorobenzeneboronic acid | 110 mg | FC=1C=C(C=C(C1)F)B(O)O | C6H5BF2O2
solvent | toluene | 15 ml | C1(=CC=CC=C1)C | C7H8
solvent | ethanol | 5 ml | C(C)O | C2H6O
catalyst | tetrakis(triphenylphosphine)palladium(0) | 34 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 4-(3,5-difluorophenyl)-2-ethyl-2-methyl-5{4-(methylsulfonyl)phenyl}-3(2H)-furanone | 80 mg | FC=1C=C(C=C(C1)F)C=1C(C(OC1C1=CC=C(C=C1)S(=O)(=O)C)(C)CC)=O | C20H18F2O4S
